US07183260B2
Part C: (4S. 5R)-4-Amino-5-ethoxy-dihydro-furan-2-one
To a suspension of (2R, 3S)-(2-Ethoxy-5-oxo-tetrahydro-furan-3-yl)-carbamic acid benzyl ester (0.22 g, 0.86 mmol) in Ethyl acetate (25 mL) at room temperature was added 10 mol % Pd/C (˜0.03 g). The reaction flask was purged between H2 (1atm) and vacuum three times before stirring under H2 (1atm) at room temperature. After stirring at room temperature for 3 hrs, the reaction mixture was filtered through celite and then evaporated to dryness to give the title compound (0.12 g, 97%) as a clear oil.

reactant | (2R, 3S)-(2-Ethoxy-5-oxo-tetrahydro-furan-3-yl)-carbamic acid benzyl ester | 0.86 mmol, 0.22 g | C(C1=CC=CC=C1)OC(N[C@@H]1[C@@H](OC(C1)=O)OCC)=O | C14H17NO5
solvent | Ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | ˜0.03 g | [Pd] | Pd
product | (4S. 5R)-4-Amino-5-ethoxy-dihydro-furan-2-one | 0.12 g, 97% | N[C@H]1CC(O[C@H]1OCC)=O | C6H11NO3
